US08217066B2
Step 3: 2-Benzylsulfanyl-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanone:
2-bromo-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanone and benzyl mercaptan were dissolved in DMF. Cesium carbonate was added and the reaction stirred overnight. Standard aqueous workup afforded provided the product.

reactant | 2-bromo-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanone | BrCC(=O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C12H9Br2NO2
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | Cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Benzylsulfanyl-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanone | C(C1=CC=CC=C1)SCC(=O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C19H16BrNO2S
